US05445762
4, 16-Bis(3,3-dimethylbutyroyl)-1,7,10,13,19-pentaoxa-4,16-diazacycloheneicosane
Analogously to Example 2 from 1,7,10,13,19-pentaoxa-4,16-diazacycloheneicosane and 3,3-dimethylbutyryl chloride.

reactant | 1,7,10,13,19-pentaoxa-4,16-diazacycloheneicosane | O1CCNCCOCCOCCOCCNCCOCC1 | C14H30N2O5
reactant | 3,3-dimethylbutyryl chloride | CC(CC(=O)Cl)(C)C | C6H11ClO
product | 4, 16-Bis(3,3-dimethylbutyroyl)-1,7,10,13,19-pentaoxa-4,16-diazacycloheneicosane | CC(CC(=O)N1CCOCCOCCN(CCOCCOCCOCC1)C(CC(C)(C)C)=O)(C)C | C26H50N2O7
